US07402595B2
2-(Benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg) was dissolved in THF (6.0 ml) and oxalyl chloride (71 μl) and DMF (1 drop) were added at 0° C. with stirring, and the mixture was stirred at room temperature for 2 hrs. and concentrated under reduced pressure. Toluene was added to the residue and they were boiled together several times and dried to give 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride.

reactant | 2-(Benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)O)C2=CC=CC=C2)Br)=O | C24H16BrNO5
reactant | oxalyl chloride | 71 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl chloride | O1COC2=C1C=CC(=C2)CN2C(C1=CC=C(C=C1C(=C2C(=O)Cl)C2=CC=CC=C2)Br)=O | C24H15BrClNO4
